US04159331
In the manner given in Example 1A, p-nitrobenzenesulfonyl chloride, 1-(m-chlorophenyl)piperazine, and triethylamine are stirred at reflux to give 1-[(p-nitrophenyl)sulfonyl]-4-(m-chlorophenyl)piperazine.

reactant | p-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 1-(m-chlorophenyl)piperazine | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[(p-nitrophenyl)sulfonyl]-4-(m-chlorophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C16H16ClN3O4S
